US04963561
6-[4-(Butanecarbonylamino)phenyl]-1,3-dihydro-5-methyl2H-imidazo[4,5-b]pyridin-2-one
[I; Ar 4-CH3 (CH2)3CONHC6H4, R1 and R3H, R5 =CH3 ]was prepared from 3 g 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride and 1.86 ml valeryl chloride according to the procedure of Example 7, and was obtained (1.16 g) as a colorless solid, m.p. above 300° C. when recrystallized from ethanol.

reactant | 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride | 3 g | Cl.NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O
reactant | valeryl chloride | 1.86 ml | C(CCCC)(=O)Cl | C5H9ClO
product | 6-[4-(Butanecarbonylamino)phenyl]-1,3-dihydro-5-methyl2H-imidazo[4,5-b]pyridin-2-one | C(CCC)C(=O)NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O | C18H20N4O2
